US06969711B2
Dimethylformamide dimethylacetal (146 mg, 1.2 mmol) was dropped into a solution of 2-[4-[2-(7-acetylbenzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropylphenyl)acetamide (214 mg, 0.4 mmol) in DMF (15 ml), followed by stirring at 80° C. for 4 hours. The reaction solution was allowed to cool and extracted with ethyl acetate. The organic layer was washed with water and diluted hydrochloric acid solution successively and dried over sodium sulfate to provide 245 mg of crude 2-[4-[2-[7-(3-dimethylaminoacryloyl)benzoxazol-2-ylthio]ethyl]piperazin-1-yl]-N-(2,6-diisopropylphenyl)acetamide.

reactant | Dimethylformamide dimethylacetal | 1.2 mmol, 146 mg | COC(N(C)C)OC | C5H13NO2
reactant | 2-[4-[2-(7-acetylbenzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropylphenyl)acetamide | 0.4 mmol, 214 mg | C(C)(=O)C1=CC=CC=2N=C(OC21)SCCN2CCN(CC2)CC(=O)NC2=C(C=CC=C2C(C)C)C(C)C | C29H38N4O3S
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-[4-[2-[7-(3-dimethylaminoacryloyl)benzoxazol-2-ylthio]ethyl]piperazin-1-yl]-N-(2,6-diisopropylphenyl)acetamide | 245 mg | CN(C=CC(=O)C1=CC=CC=2N=C(OC21)SCCN2CCN(CC2)CC(=O)NC2=C(C=CC=C2C(C)C)C(C)C)C | C32H43N5O3S
